US07141586B2
2-Chloro-5-fluoro-N-(trans-4-hydroxycyclohexyl)nicotinamide (150 mg, 0.55 mmol) was added to a solution of 4-chloro-3-(methylsulfanyl)phenol (96 mg, 0.55 mmol), caesium carbonate (358 mg, 1.1 mmol) in N,N-dimethylformamide (2 ml). The reaction was stirred under nitrogen at 55° C. for 18 h, cooled, and quenched with 1:1 water:sat. ammonium chloride solution and passed through a chemelute™ cartridge. The solvent. The residue was purified by flash column chromatography using dichloromethane:methanol (100:0 to 96:4) as eluant to afford 2-[4-chloro-3-(methylsulfanyl)phenoxy]-5-fluoro-N-(trans-4-hydroxycyclohexyl)nicotinamide as an amorphous glass (37 mg).

reactant | 2-Chloro-5-fluoro-N-(trans-4-hydroxycyclohexyl)nicotinamide | 0.55 mmol, 150 mg | ClC1=C(C(=O)N[C@@H]2CC[C@H](CC2)O)C=C(C=N1)F | C12H14ClFN2O2
reactant | 4-chloro-3-(methylsulfanyl)phenol | 0.55 mmol, 96 mg | ClC1=C(C=C(C=C1)O)SC | C7H7ClOS
reactant | caesium carbonate | 1.1 mmol, 358 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[4-chloro-3-(methylsulfanyl)phenoxy]-5-fluoro-N-(trans-4-hydroxycyclohexyl)nicotinamide | 37 mg | ClC1=C(C=C(OC2=C(C(=O)N[C@@H]3CC[C@H](CC3)O)C=C(C=N2)F)C=C1)SC | C19H20ClFN2O3S
